US05688803
25.8 g (93.8 mmol) of methyl 2-amino-5-bromo-4-nitro-benzoate were dissolved in 800 ml of methanol and saturated with ammonia at -40° C. Subsequently, the mixture was stirred at room temperature overnight. The solution was concentrated and the residue was triturated with methylene chloride. The precipitate was filtered off under suction and dried. 18.3 g (75%) of 2-amino-5-bromo-4-nitro-benzamide were obtained as orange coloured crystals;

reactant | methyl 2-amino-5-bromo-4-nitro-benzoate | 93.8 mmol, 25.8 g | NC1=C(C(=O)OC)C=C(C(=C1)[N+](=O)[O-])Br | C8H7BrN2O4
reactant | ammonia | N | H3N
solvent | methanol | 800 ml | CO | CH4O
product | 2-amino-5-bromo-4-nitro-benzamide | 18.3 g, 75% | NC1=C(C(=O)N)C=C(C(=C1)[N+](=O)[O-])Br | C7H6BrN3O3
